* Z:\home\ruby\school\circuits\labs\lab4\pythagorator.asc
Q1 N003 N005 N007 0 2N3904
XU1 N005 N003 N001 LMC6482
R1 P001 N002 1k tol=1 pwr=.25
Vy P002 P003 1m
XU2 N005 N004 N010 LMC6482
XU3 N002 N005 N009 LMC6482
Q2 N002 N005 N006 0 2N3904
Q3 N006 N006 N009 0 2N3904
Q4 N007 N007 N009 0 2N3904
Q5 N004 N005 N008 0 2N3904
Q6 N008 N008 N010 0 2N3904
Q7 N007 N007 N010 0 2N3904
XU4 N005 gnd
Vx P004 P001 5V
R2 N001 N003 1k tol=1 pwr=.25
R3 P003 N004 1k tol=1 pwr=.15
XU5 P004 vdd
XU6 P002 vdd
Vcc P005 P006 5V
XU7 P005 vdd
XU8 P006 gnd
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.dc Vx 0 5 .1 Vy list 0 1 2 3 4 5
.include engr2420.sub
.backanno
.end
